US06566366B1
a) 3-(5-(((2S)-2-(1-Adamantylmethoxycarbonylamino)-2-tert-butoxycarbonylethyl)carbamoyl)-2-thienyl)-acrylic Acid Methyl Ester
The title compound was synthesized analogously to example 3, step a) from 360 mg (1.84 mmol) of 5-(2-methoxycarbonyl-vinyl)-thiophene-2-carboxylic acid and 650 mg (1.84 mmol) of (2S)-2-(1-adamantylmethoxycarbonylamino)-3-amino-propionic acid tert-butyl ester. After chromatography (silica gel; ethyl acetate/n-heptane (1/1, v/v)) 326 mg of the title compound were obtained as colourless crystals.

reactant | 5-(2-methoxycarbonyl-vinyl)-thiophene-2-carboxylic acid | 1.84 mmol, 360 mg | COC(=O)C=CC1=CC=C(S1)C(=O)O | C9H8O4S
reactant | (2S)-2-(1-adamantylmethoxycarbonylamino)-3-amino-propionic acid tert-butyl ester | 1.84 mmol, 650 mg | C(C)(C)(C)OC([C@H](CN)NC(=O)OCC12CC3CC(CC(C1)C3)C2)=O | C19H32N2O4
solvent | ethyl acetate n-heptane | C(C)(=O)OCC.CCCCCCC
product | 3-(5-(((2S)-2-(1-Adamantylmethoxycarbonylamino)-2-tert-butoxycarbonylethyl)carbamoyl)-2-thienyl)-acrylic Acid Methyl Ester | 326 mg | COC(C=CC=1SC(=CC1)C(NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC12CC3CC(CC(C1)C3)C2)=O)=O | C28H38N2O7S
